US04772600
2-[4-(Trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetic acid
A solution of 2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester (17.7 g, 0.051 mole), potassium hydroxide pellets (4.5 g, 0.080 mole), 95% ethanol (150 ml), and water (10 ml) was refluxed to 2-1/2 hrs. The ethanol was evaporated in vacuo, the residue acidified with glacial acetic acid, and the mixture filtered. The filter cake was suspended in water (300 ml) and filtered. The filter cake was air dried (17 g) and recrystallized from ethanol-water to give 12.21 g (75%) of a white solid, mp 240°-241° C.

reactant | 2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetic acid ethyl ester | 0.051 mole, 17.7 g | C(C)OC(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O | C17H14F3N3O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 2-[4-(Trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetic acid | 12.21 g, 75% | FC(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O)(F)F | C15H10F3N3O2
